US05064946
3-N-Methyl-3'-azido-3'-deoxythymidine
3'-Azido-3'-deoxythymidine (0.5 g; 1.9 mMol) and N,N-dimethylformamide dimethylacetal (Zemlicka, Coll. Czech. Chem. Comm. 35, 3572 (1972)) (0.9 mL; 7.5 mMol) were refluxed in 20 mL CHCl3 for 48 hours. The solvent was removed in vacuo and the material placed on a silica solumn. Elution with EtOAc/CHCl3 (1:1 v/v) resulted in pure material as a viscous oil: 0.26 g (0.9 mMol, 47%).

reactant | 3'-Azido-3'-deoxythymidine | 1.9 mMol, 0.5 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
reactant | N,N-dimethylformamide dimethylacetal | 7.5 mMol, 0.9 mL | COC(N(C)C)OC | C5H13NO2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-N-Methyl-3'-azido-3'-deoxythymidine | CN1C(N([C@H]2C[C@@H]([C@@H](CO)O2)N=[N+]=[N-])C=C(C1=O)C)=O | C11H15N5O4
